US04326069
N-(3'-Dimethylaminopropyl)-aspartic acid-4-methyl ester
286 g (2.0 mols+10% excess) of maleic acid-monomethyl ester are placed into a glass flask fitted with a blade stirrer, thermometer, reflux condenser and dropping funnel, and, with ice-water cooling, 400 ml of triethylamine are added dropwise at 6°-11° C. internal temperature within 1 hour and 35 minutes. The cooling is subsequently removed, 204 g (2.0 mols) of 3-dimethylaminopropylamine are quickly added, and the mixture is reacted for 10 minutes at 87°-90° C. and is then cooled to room temperature; the crystalline crude product is mixed with 1 liter of acetone, the suspension is filtered, and the filter residue is washed with acetone. The yield after drying at 80° C. in vacuo is 296 g (63.7% of theory) of a crystalline aspartic acid derivative, which melts at 171°-172° C.

reactant | maleic acid-monomethyl ester | 2.0 mols, 286 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | triethylamine | 400 ml | C(C)N(CC)CC | C6H15N
reactant | 3-dimethylaminopropylamine | 2.0 mols, 204 g | CN(CCCN)C | C5H14N2
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | N-(3'-Dimethylaminopropyl)-aspartic acid-4-methyl ester | COC(C[C@H](NCCCN(C)C)C(=O)O)=O | C10H20N2O4
